US06472349B1
2-Amino-4-chloro-3-methylbenzamide
Using two inlets, at 80° C. a suspension of 4.64 g (0.0219 mol) of 3-methyl-4-chloroisatoic anhydride in 21 ml of DMF and 3.1 g (0.0219 mol) of 25% strength ammonia water in 6 ml of water were added simultaneously with stirring and over a period of 15 min to 8 ml of water. The mixture was stirred at 80° C. for 1 h and then cooled and extracted twice with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated under reduced pressure, giving 2.61 g (64.4% of theory) of the title compound as colorless crystals of m.p. 206-208° C.

reactant | 3-methyl-4-chloroisatoic anhydride | 0.0219 mol, 4.64 g | CC1=C2C(C(=O)OC(N2)=O)=CC=C1Cl | C9H6ClNO3
reactant | ammonia water | O.N
solvent | DMF | 21 ml | CN(C)C=O | C3H7NO
solvent | water | 6 ml | O | H2O
product | 2-Amino-4-chloro-3-methylbenzamide | NC1=C(C(=O)N)C=CC(=C1C)Cl | C8H9ClN2O
